US03985885
A. 2-(3-Pyridinyl)benzothiazole
o-Aminothiophenol 36.9 g (0.30 mole) and nicotinic acid 55.5 g (0.45 mole) are dissolved in 600 cc of chloroform and 360 g of polyphosphoric acid ethyl ester (PPE). The resulting solution is heated at reflux for 1 hour. It is then concentrated to dryness. The residue is poured onto 1500 cc of ice-water, and the resulting mixture is brought to pH 10 with 50% NaOH solution. The aqueous mixture is extracted with CHCl3, and the extracts dried (MgSO4), filtered, and concentrated in vacuo. The residue is recrystallized from acetonitrile to yield the title A compound (42.8 g, 68%, of theory).

reactant | o-Aminothiophenol | 0.30 mole, 36.9 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | nicotinic acid | 0.45 mole, 55.5 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
solvent | chloroform | 600 cc | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Pyridinyl)benzothiazole | N1=CC(=CC=C1)C=1SC2=C(N1)C=CC=C2 | C12H8N2S
